US04503240
(b) Preparation of 4,8,12-trimethyltrideca-3,7,11-trienoic acid (Homofarnesic acid)
A mixture of 469 g (2.02 moles) farnesyl cyanide, 287 g potassium hydroxide, 2,500 ml ethanol and 340 ml water were heated under reflux. After 5 hours, the ethanol was evaporated and the residue poured into 10 liters of water. The aqueous solution so obtained was twice extracted with 1 liter diethyl ether, the extracts being discarded, and thereafter acidified with 20% sulfuric acid. Then, the free acid was extracted with diethyl ether. The etheric solution was again washed with water and dried with sodium sulfate. After evaporation of the ether, 419 g (83% of the theoretical) of homofarnesic acid were obtained as a yellow oil.

reactant | farnesyl cyanide | 2.02 moles, 469 g | C(C=C(C)CCC=C(C)CCC=C(C)C)C#N | C16H25N
reactant | potassium hydroxide | 287 g | [OH-].[K+]
reactant | ethanol | 2,500 ml | C(C)O | C2H6O
solvent | water | 340 ml | O | H2O
product | 4,8,12-trimethyltrideca-3,7,11-trienoic acid | CC(=CCC(=O)O)CCC=C(CCC=C(C)C)C | C16H26O2
